US04614614
Example 24: N-p-methoxybenzyl-N-tert-butylthiomethylammonium chloride
A solution of 2.88 g (78.8 mmol) of hydrogen chloride in 20 ml of acetonitrile and 6.45 g (71.66 mmol) of tert.-butylmercaptan are added in succession at room temperature to a solution of 10.69 g (23.9 mmol) of 1,3,5-tris-(p-methoxybenzyl)-hexahydro-1,3,5triazine, which may be prepared analogously to the method of German Offenlegungsschrift DE-A No. 2,431,862, in 170 ml of acetonitrile. The mixture is stirred for 22 hours. Undissolved material is filtered off with suction and the filtrate is concentrated under reduced pressure. A crystalline residue is obtained which is stirred with ether and filtered off with suction.

reactant | hydrogen chloride | 78.8 mmol, 2.88 g | Cl | ClH
reactant | tert.-butylmercaptan | 71.66 mmol, 6.45 g | C(C)(C)(C)S | C4H10S
reactant | 1,3,5-tris-(p-methoxybenzyl)-hexahydro-1,3,5triazine | 23.9 mmol, 10.69 g | COC1=CC=C(CN2CN(CN(C2)CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C=C1 | C27H33N3O3
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 170 ml | C(C)#N | C2H3N
product | N-p-methoxybenzyl-N-tert-butylthiomethylammonium chloride | [Cl-].COC1=CC=C(C[NH2+]CSC(C)(C)C)C=C1 | InChI=1S/C13H21NOS.ClH/c1-13(2,3)16-10-14-9-11-5-7-12(15-4)8-6-11;/h5-8,14H,9-10H2,1-4H3;1H
